US07524951B2
A solution (2 L) of 1.33 kg of 2-t-butoxycarbonylaminomethylthiazole in ethyl acetate was added to an aqueous solution (20 L) of 8.6 kg of sodium acetate, and the mixture was stirred. Bromine (1.35 L) was added dropwise to this solution (internal temperature: 19 to 24° C.) over a period of 3.5 hr, and the mixture was stirred at an internal temperature of 25.5±5° C. for 14 hr. Sodium sulfite pentahydrate (180 g) was added thereto, the mixture was then extracted with 3 L of ethyl acetate, and the organic layer was washed with 1 L of water and 1.53 L of a 6 M aqueous sodium hydroxide solution. The aqueous layer was then extracted with 3 L of ethyl acetate. The organic layers were combined, were dried over anhydrous magnesium sulfate, and were filtered. The solvent was removed from the filtrate by evaporation under the reduced pressure, followed by substitution concentration twice with 2 L of ethanol to give 944 g of 5-bromo-2-t-butoxycarbonylaminomethylthiazole.

reactant | 2-t-butoxycarbonylaminomethylthiazole | 2 L, 1.33 kg | C(C)(C)(C)OC(=O)NCC=1SC=CN1 | C9H14N2O2S
reactant | sodium acetate | 20 L, 8.6 kg | C(C)(=O)[O-].[Na+]
reactant | Bromine | 1.35 L | BrBr | Br2
reactant | Sodium sulfite pentahydrate | 180 g | O.O.O.O.O.S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-2-t-butoxycarbonylaminomethylthiazole | 944 g | BrC1=CN=C(S1)CNC(=O)OC(C)(C)C | C9H13BrN2O2S
